US08471005B2
Into a 30 mL vial, [A] 7-(4-Methanesulfonyl-phenyl)-5-methyl-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.260 g, 0.000780 mol) and Methylene chloride (20 mL, 0.3 mol) were added. m-CPBA 70-75% (70:30, m-Chloroperbenzoic acid:3-Chlorobenzoic acid, 0.211 g, 0.000858 mol) was added and stirred at room temperature overnight. The reaction was partitioned with DCM and saturated NaHCO3. The organic was separated and washed with water then Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The organic was removed under vacuum to give a solid. The solid was triturated with Et2O and filtered to give 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (0.20 g, 73%) NMR 1H (CDCl3-d)-8.99 (s, 1H), 8.24 (d, 2H, J=8.45 Hz), 8.08 (d, 2H, J=8.40 Hz), 7.28 (s, 1H), 3.10 (s, 3H), 3.02 (bs, 4H), 2.54 (s, 3H)

reactant | 7-(4-Methanesulfonyl-phenyl)-5-methyl-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000780 mol, 0.260 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C2C=NC(=NN21)SC)C | C15H15N3O2S2
reactant | Methylene chloride | 0.3 mol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | m-CPBA | 0.000858 mol, 0.211 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine | 0.20 g, 73% | CS(=O)C1=NN2C(C=N1)=C(C=C2C2=CC=C(C=C2)S(=O)(=O)C)C | C15H15N3O3S2
